US04889854
from 10-chloro-N,N-dimethyl-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxamide in methanol/glacial acetic acid (10:1), but without the addition of saturated methanolic hydrochloric acid, there is obtained 10-chloro-6,7-dihydro-N,N-dimethyl-4-oxo-3-phenyl-4H-pyrido[2,1-a]-phthalazine-1-carboxamide of m.p. 250°-252° (ethanol);

reactant | 10-chloro-N,N-dimethyl-4-oxo-3-phenyl-4H-pyrido[2,1-a]phthalazine-1-carboxamide | ClC1=CC=C2C=NN3C(C2=C1)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)N(C)C | C21H16ClN3O2
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 10-chloro-6,7-dihydro-N,N-dimethyl-4-oxo-3-phenyl-4H-pyrido[2,1-a]-phthalazine-1-carboxamide | ClC1=CC=C2CNN3C(C2=C1)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)N(C)C | C21H18ClN3O2
